US08058456B2
Preparation of ethyl (R)-2,5-dioxo-3-(pyrrol-1-yl)pyrrolidine-3-carboxylate by an Alternative Method
A mixture of (S)-(+)-camphorsulfonic acid salt of ethyl (R)-3-amino-2,5-dioxopyrrolidine-3-carboxylate (1.0 g), 2,5-dimethoxytetrahydrofuran (0.32 g), water (5 ml) and ethyl acetate (8 ml) was stirred at room temperature overnight. The mixture was extracted with ethyl acetate and the ethyl acetate layer was washed sequentially with water, 5% aqueous NaHCO3 solution and then brine, dried over magnesium sulfate and filtered. The filtrate was concentrated to give the desired product (about 83% yields) containing about 5% impurity.

reactant | (S)-(+)-camphorsulfonic acid | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | ethyl (R)-3-amino-2,5-dioxopyrrolidine-3-carboxylate | 1.0 g | N[C@]1(C(NC(C1)=O)=O)C(=O)OCC | C7H10N2O4
reactant | 2,5-dimethoxytetrahydrofuran | 0.32 g | COC1OC(CC1)OC | C6H12O3
reactant | water | 5 ml | O | H2O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | ethyl (R)-2,5-dioxo-3-(pyrrol-1-yl)pyrrolidine-3-carboxylate | about 83% | O=C1NC(C[C@@]1(C(=O)OCC)N1C=CC=C1)=O | C11H12N2O4
